US06531491B1
5-Methyl-thiazole-2-carboxylic Acid {3-(3-Styryl-1H-indazol-6-yloxy)-phenyl]-amide
3-(3-Styryl-4,5-dihydro-1H-indazol-6-yloxy)-phenylamine was converted to 5-methyl-thiazole-2-carboxylic acid {3-[1-(5-methyl-thiazole-2-carbonyl)-3-styryl-1H-indazol-6-yloxyl-phenyl}amide by treatment with 5-methyl-thiazole-2-carboxylic acid and HATU (o-(2-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate) in DMF and analogous work-up, DDQ treatment and isolation to Example 4(a), step (iv) (50% yield): 1H NMR (DMSO-d6) δ 10.85 (s, 1H), 8.45 (d, 1H, J=9.8 Hz), 8.24 (m, 3H), 7.99-7.62 (m, 6H), 7.54-7.34 (m, 5H), 6.96 (d, 1H, J=8.5 Hz), 2.64 (s, 3H), 2.54 (s, 3H).

reactant | 3-(3-Styryl-4,5-dihydro-1H-indazol-6-yloxy)-phenylamine | C(=CC1=CC=CC=C1)C1=NNC=2C=C(CCC12)OC=1C=C(C=CC1)N | C21H19N3O
reactant | 5-methyl-thiazole-2-carboxylic acid | CC1=CN=C(S1)C(=O)O | C5H5NO2S
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DDQ | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-Methyl-thiazole-2-carboxylic Acid {3-(3-Styryl-1H-indazol-6-yloxy)-phenyl]-amide | C(=CC1=CC=CC=C1)C1=NNC2=CC(=CC=C12)OC=1C=C(C=CC1)NC(=O)C=1SC(=CN1)C | C26H20N4O2S
